US07687664B2
Methyl 3-[3-(hydroxymethyl)-4-methoxyphenyl]benzoate
894 mg of 2-Methoxy-5-[3-(methoxycarbonyl)phenyl]benzoic acid was dissolved in 7 ml of tetrahydrofuran, 0.36 mg of triethylamine and 0.55 ml of ethyl chlorocarbonate were added successively, and the mixture was stirred at room temperature for 15 minutes. The precipitated crystals were filtered, and the filtrate was filtered. 2 ml aqueous solution of 180 mg sodium borohydride was added thereto, and the mixture was stirred at room temperature for 1 hour. 1 N hydrochloric acid was added to the reaction mixture which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed. The residue was purified by a silica gel column, to give 496 mg of the title compound in the 5:3 hexane-ethyl acetate fraction.

reactant | 2-Methoxy-5-[3-(methoxycarbonyl)phenyl]benzoic acid | 894 mg | COC1=C(C(=O)O)C=C(C=C1)C1=CC(=CC=C1)C(=O)OC | C16H14O5
reactant | triethylamine | 0.36 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.55 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | Methyl 3-[3-(hydroxymethyl)-4-methoxyphenyl]benzoate | 496 mg | OCC=1C=C(C=CC1OC)C=1C=C(C(=O)OC)C=CC1 | C16H16O4
